US04137313
2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-(4-methyl-2-pyridyl)-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide was prepared analogous to Example 6 from methyl 2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide and 2-amino-4-methyl-pyridine with a yield of 91% of theory; M.p.: 250°-251° C. (decomposition).

reactant | methyl 2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)OC)O)(=O)=O | C14H14N2O5S
reactant | 2-amino-4-methyl-pyridine | NC1=NC=CC(=C1)C | C6H8N2
product | 2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-(4-methyl-2-pyridyl)-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide | yield of 91% | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)NC1=NC=CC(=C1)C)O)(=O)=O | C19H18N4O4S
